US08471005B2
[7-(4-Methyl-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-morpholin-4-yl-phenyl)-amine was prepared from (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine and 4-methylpyridine-3-boronic acid in an analogous manner to Example 1031b. Product isolated as a yellow solid (55 mg, 48%). m.p.=191-193° C.; LCMS (m/e) 387 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.76-8.69 (m, 2H), 8.59-8.52 (m, 1H), 7.37 (d, 2H, J=7.40 Hz), 7.31-7.26 (m, 1H), 6.88-6.84 (m, 1H), 6.84-6.75 (m, 3H), 6.67 (s, 1H), 3.89-3.81 (m, 4H), 3.12-3.04 (m, 4H), 2.31 (s, 3H).

reactant | (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C16H16BrN5O
reactant | 4-methylpyridine-3-boronic acid | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
product | [7-(4-Methyl-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(4-morpholin-4-yl-phenyl)-amine | CC1=C(C=NC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C22H22N6O
